US04093654
2-Chloro-N-tert-butylacetoacetamide
Diketene (42 g, 0.5 mol) was mixed with ca. 200 ml of ice and water in a 2 l., 3-neck flask. A solution of t-butylamine (37.5 g, 0.5 mol) in water (150 ml) was added gradually with stirring and more ice was added as needed to keep the reaction at or below 20°. The solution was stirred for 20 minutes after completing the addition, acidified with concentrated HCl (400 ml), and cooled to 10° with an ice/acetone bath. Aqueous sodium hypochlorite ("Chlorox", 750 ml, 0.5 mol) was then added dropwise with rapid mechanical stirring. The product was filtered out, washed with water and air-dried for several hours to give 78.5 g (81.8%) of colorless solid.

reactant | Diketene | 0.5 mol, 42 g | C=C1CC(=O)O1 | C4H4O2
reactant | t-butylamine | 0.5 mol, 37.5 g | C(C)(C)(C)N | C4H11N
reactant | HCl | 400 ml | Cl | ClH
reactant | sodium hypochlorite | 0.5 mol, 750 ml | Cl[O-].[Na+]
solvent | water | 150 ml | O | H2O
product | 2-Chloro-N-tert-butylacetoacetamide | 78.5 g, 81.8% | ClC(C(=O)NC(C)(C)C)C(=O)C | C8H14ClNO2
